US07229835B2
Referring to FIG. 1, 1-hydroxybenzotriazole-6-carboxylic acid is formed in two steps from 4-chloro-3-nitrobenzoic acid. In the first step, 4-chloro-3-nitrobenzoic acid and hydrazine monohydrate are heated at reflux in ethanol to yield a crude precipitate. In the second step, the crude precipitate is dissolved in water and acidified with HCl to pH 1 to yield 1-hydroxybenzotriazole, a peach colored precipitate. Confirmation of the compound can be conducted by NMR spectroscopy and high resolution mass spectroscopy (HRMS), as well as other detection methods determined by one of skill in the art.

reactant | 4-chloro-3-nitrobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | hydrazine monohydrate | O.NN
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
